US07074819B2
Step 8) Synthesis of 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(3-dimethylaminopropylthio)nonyl]thiochroman
A mixture of 7-methoxy-3-(4-methoxyphenyl)-3-methyl-4-[9-(3-dimethylaminopropylthio)nonyl]thiochroman (50 mg, 0.09 mmol), hydrobromic acid (0.13 ml, 48% aqueous solution) and acetic acid (0.15 ml) was heated for 8 hours. After the reaction was completed, water was added to the reaction solution, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and water, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure to give the title compound (60 ml, crude product) as a colorless oil. This compound thus obtained was used in the next reaction without further purification.

reactant | 7-methoxy-3-(4-methoxyphenyl)-3-methyl-4-[9-(3-dimethylaminopropylthio)nonyl]thiochroman | 0.09 mmol, 50 mg | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCCCSCCCN(C)C | C32H49NO2S2
reactant | hydrobromic acid | 0.13 ml | Br | BrH
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(3-dimethylaminopropylthio)nonyl]thiochroman | 60 ml | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCSCCCN(C)C | C30H45NO2S2
